US08003783B2
Sulfamic acid 16-benzylidene-13-methyl-17-oxo-7,8,9,11,12,13,14,15,16,17-decahydro-6H-cyclopenta[a]phenanthren-3-yl ester (CAB01148, STX314).
5 ml of a 0.7 M sulphamoyl chloride solution in toluene (3.5 mmol) were concentrated under reduced pressure (30° C. water bath temperature). The residue was cooled to 0° C. (ice bath) and DMA (10 ml) and 16-Benzylidene-3-hydroxy-13-methyl-6,7,8,9,11,12,13,14,15,16-decahydro-cyclopenta[a]phenanthren-17-one (717 mg, 2.0 mmol, CAB01122) were added. The resulting clear solution was stirred for 1 h at 0° C., then allowed to warm up to room temperature and stirred overnight. Ethyl acetate (50 ml) was added and the solution was washed with water (2×30 ml) and brine. The organic layer was dried over sodium sulphate and concentrated under reduced pressure. The resulting off-white solid was dissolved in a small amount of ethyl acetate and precipitated by addition of hexane. Yield: 683 mg (78%) off-white solid. 1H-NMR (CDCl3, 400 MHz), δ: 0.96 (s, 3H), 1.20-2.60 (m, 11H), 2.80-3.02 (m, 3H), 5.38 (s, 2H, —NH2), 7.06 (d, J=2.3 Hz, 1H), 7.11 (dd, J=8.0, 2.3 Hz, 1H), 7.30 (d, J=8.2 Hz, 1H), 7.34-7.47 (m, 2H), 7.52-7.65 (m, 2H). LRMS (FAB+): 438.2 (100, [M]+).

reactant | sulphamoyl chloride | 0.7 M | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | toluene | 3.5 mmol | C1(=CC=CC=C1)C | C7H8
reactant | water | O | H2O
reactant | 16-Benzylidene-3-hydroxy-13-methyl-6,7,8,9,11,12,13,14,15,16-decahydro-cyclopenta[a]phenanthren-17-one | 2.0 mmol, 717 mg | C(C1=CC=CC=C1)=C1CC2C3CCC=4C=C(C=CC4C3CCC2(C1=O)C)O | C25H26O2
solvent | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | DMA | 10 ml | CC(=O)N(C)C | C4H9NO
product | Sulfamic acid 16-benzylidene-13-methyl-17-oxo-7,8,9,11,12,13,14,15,16,17-decahydro-6H-cyclopenta[a]phenanthren-3-yl ester | C(C1=CC=CC=C1)=C1CC2C3CCC=4C=C(C=CC4C3CCC2(C1=O)C)OS(N)(=O)=O | C25H27NO4S
